US05708008
5-(cyclobutanecarbonyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 12.0 mg (0.05 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 15.0 mg (0.10 mMol) cyclobutanecarboxylic acid, 15.0 mg (96%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.05 mMol, 12.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | cyclobutanecarboxylic acid | 0.10 mMol, 15.0 mg | C1(CCC1)C(=O)O | C5H8O2
product | 5-(cyclobutanecarbonyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 15.0 mg, 96% | C1(CCC1)C(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C19H25N3O
